* ==========================================================================
* @part: TIP122
* @family: bjt
* @source: OnSemi
* @url: https://www.onsemi.com/design/resources/design-resources/models (manual download)
* @origin-file: manual/onsemi/TIP122.LIB
* @retrieved: 2026-09-24
* @licence: notice: "Copyright(c) Symmetry Design Systems"
* @added-by: garv.singh
* @pins: tip122: 1 2 3
* The complete origin file follows, unchanged.
* ==========================================================================

.SUBCKT tip122 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
* Model generated on Dec 19, 2003
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 2.7545
D1 3 1 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=1.15528e-13 BF=387.828 NF=0.937439 VAF=30
+IKF=0.270029 ISE=5.36359e-11 NE=1.54544 BR=0.1
+NR=1.5 VAR=134.979 IKR=0.109764 ISC=1.00329e-13
+NC=1.97549 RB=4.9473 IRB=0.200762 RBM=4.9473
+RE=0.0964614 RC=0.482307 XTB=0.580269 XTI=2.92642 EG=1.05
+CJE=2.08206e-10 VJE=0.945586 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67927e-10
+VJC=0.754327 MJC=0.289398 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=1.15528e-13 BF=387.828 NF=0.937439 VAF=30
+IKF=0.270029 ISE=5.36359e-11 NE=1.54544 BR=0.1
+NR=1.5 VAR=134.979 IKR=0.109764 ISC=1.00329e-13
+NC=1.97549 RB=4.9473 IRB=0.200762 RBM=4.9473
+RE=0.0964614 RC=0.482307 XTB=0.580269 XTI=2.92642 EG=1.05
+CJE=2.08206e-10 VJE=0.945586 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.754327 MJC=0.289398 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS
